US05958821
To 25 milliliters of acetonitrile were added 1.38 grams (10 millimoles) of pinane, 0.13 gram (0.8 millimole) of N-hydroxyphthalimide and 0.015 gram (0.06 millimole) of Co(AA)2, and the resultant mixture was stirred in an oxygen atmosphere at a temperature of 100° C. for six hours. Pinane was transformed into 2-pinanol (selectivity for pinane 91%, yield 82%) with a transformation rate of 90%.

reactant | pinane | 10 millimoles, 1.38 grams | C12C(CCC(C1(C)C)C2)C | C10H18
reactant | N-hydroxyphthalimide | 0.8 millimole, 0.13 gram | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | oxygen | O=O | O2
solvent | acetonitrile | 25 milliliters | C(C)#N | C2H3N
product | 2-pinanol | yield 82% | C12C(CCC(C1(C)C)C2)(C)O | C10H18O
